US05416089
Part A: 7-Methoxyphenanthrene-1,10-dicarboxylic Anhydride
As described in example 50, the following compounds were prepared from dimethyl homophthalate and 2-bromo-5-methoxybenzaldehyde (Handford, B. O.; Whalley, W. B. J. Chem. Soc. 1963, 3896):

reactant | dimethyl homophthalate | C(CC=1C(C(=O)OC)=CC=CC1)(=O)OC | C11H12O4
reactant | 2-bromo-5-methoxybenzaldehyde | BrC1=C(C=O)C=C(C=C1)OC | C8H7BrO2
product | 7-Methoxyphenanthrene-1,10-dicarboxylic Anhydride | COC1=CC=C2C=3C=CC=C4C3C(=CC2=C1)C(=O)OC4=O | C17H10O4
